* LELO_NMC_3STAGE_FINAL - 3-stage NMC opamp, FULL current-mirror bias
* SKY130A, 1.8 V supply, CL = 10 pF, IBIAS = 10 uA reference
*
* Topology (single-ended):
*   Stage 1: NMOS-input folded cascode -> vo1
*   Stage 2: PMOS-input 5T-OTA          -> vo2
*   Stage 3: PMOS common-source         -> VOUT
*   Cm1 around stage 3, Cm2 around stages 2+3.
*
* Bias (no V-sources, no resistor wires):
*   M_NREF NMOS diode at IBIAS pin sets vbn (== IBIAS, same node).
*   M_PREF (PMOS-LVT diode) sets vbp from a 10 uA NMOS sink mirror.
*   Sooch wide-swing cascode generators set vbp_cas, vbn_cas via
*   current-mirror branches at I_aux = 25 uA each:
*     vbp_cas = VDD - (|Vt_p| + 2.Vov(M7p))   (PMOS cascode bias)
*     vbn_cas =        Vt_n  + 2.Vov(M9n)     (NMOS cascode bias)
*   Each aux device runs at half the main cascode current with W/L
*   chosen to scale Vov by 2x -- cascoded transistor at the edge of
*   saturation, max output swing.
*
* DC-coupled stages (no AC coupling caps).
* Open-loop OP requires unity-gain DC feedback in TB.

.subckt LELO_NMC_3STAGE_FINAL VSS VDD VOUT IBIAS VINP VINN VREF

* =====================================================================
* BIAS GENERATOR -- pure current mirrors, no V-sources, no R-wires
* =====================================================================
* IBIAS pin sinks 10 uA from outside.  M_NREF NMOS diode drain=gate=IBIAS,
* so vbn === IBIAS (one node, no need for a separate 0-ohm "wire").
XM_NREF IBIAS IBIAS VSS VSS sky130_fd_pr__nfet_01v8 L=1 W=4 nf=1 m=1

* PMOS reference branch: 10 uA NMOS sink mirrors IBIAS, sinks through
* PMOS-LVT diode -> vbp.
XM_PREF_SNK vbp IBIAS VSS VSS sky130_fd_pr__nfet_01v8     L=1 W=4 nf=1 m=1
XM_PREF     vbp vbp   VDD VDD sky130_fd_pr__pfet_01v8_lvt L=1 W=8 nf=1 m=1

* ---- Sooch wide-swing PMOS cascode bias (vbp_cas) ----------------
* Main cascode = M7p/M8p (W=160 nf=16 L=4, I_main = 100 uA).
* Aux PMOS-LVT diode at I_aux=25 uA, L=4 to keep (W/L)_aux/(W/L)_main = 1/4.
* Sink current set by NMOS gate=vbn sized 2.5x M_NREF -> 25 uA.
XM_PCAS_AUX vbp_cas vbp_cas VDD VDD sky130_fd_pr__pfet_01v8_lvt L=4 W=10 nf=1 m=1
XM_PCAS_SNK vbp_cas IBIAS   VSS VSS sky130_fd_pr__nfet_01v8     L=1 W=10 nf=1 m=1

* ---- Sooch wide-swing NMOS cascode bias (vbn_cas) ----------------
* Main cascode = M9n/M10n (W=40 nf=8 L=4, I_main = 100 uA).
* Aux NMOS diode at I_aux=25 uA, L=4 to keep (W/L)_aux/(W/L)_main = 1/4.
XM_NCAS_SRC vbn_cas vbp     VDD VDD sky130_fd_pr__pfet_01v8_lvt L=1 W=20 nf=1 m=1
XM_NCAS_AUX vbn_cas vbn_cas VSS VSS sky130_fd_pr__nfet_01v8     L=4 W=4  nf=1 m=1

* =====================================================================
* STAGE 1 : NMOS-input folded cascode
* =====================================================================
XMTAIL1 ntail1 IBIAS VSS VSS sky130_fd_pr__nfet_01v8 L=1 W=80 nf=16 m=1

XM1   nfp  VINN ntail1 VSS sky130_fd_pr__nfet_01v8 L=1 W=40 nf=8 m=1
XM2   nfn  VINP ntail1 VSS sky130_fd_pr__nfet_01v8 L=1 W=40 nf=8 m=1

XM3p  nfp  vo1d VDD VDD sky130_fd_pr__pfet_01v8_lvt L=2 W=320 nf=32 m=1
XM5p  nfn  vo1d VDD VDD sky130_fd_pr__pfet_01v8_lvt L=2 W=320 nf=32 m=1

XM7p  vo1d vbp_cas nfp VDD sky130_fd_pr__pfet_01v8_lvt L=4 W=160 nf=16 m=1
XM8p  vo1  vbp_cas nfn VDD sky130_fd_pr__pfet_01v8_lvt L=4 W=160 nf=16 m=1

XM9n  vo1d vbn_cas nlowp VSS sky130_fd_pr__nfet_01v8 L=4 W=40 nf=8 m=1
XM10n vo1  vbn_cas nlown VSS sky130_fd_pr__nfet_01v8 L=4 W=40 nf=8 m=1

XM11n nlowp IBIAS VSS VSS sky130_fd_pr__nfet_01v8 L=4 W=80 nf=16 m=1
XM12n nlown IBIAS VSS VSS sky130_fd_pr__nfet_01v8 L=4 W=80 nf=16 m=1

* =====================================================================
* STAGE 2 : PMOS-input 5T-OTA
* =====================================================================
XMTAIL2P ptail2 vbp VDD VDD sky130_fd_pr__pfet_01v8_lvt L=1 W=160 nf=16 m=1
XM21p    vo2d   vo1   ptail2 VDD sky130_fd_pr__pfet_01v8_lvt L=1 W=40 nf=8 m=1
XM22p    vo2    VREF  ptail2 VDD sky130_fd_pr__pfet_01v8_lvt L=1 W=40 nf=8 m=1
XM23n    vo2d   vo2d  VSS    VSS sky130_fd_pr__nfet_01v8     L=2 W=20 nf=4 m=1
XM24n    vo2    vo2d  VSS    VSS sky130_fd_pr__nfet_01v8     L=2 W=20 nf=4 m=1

* =====================================================================
* STAGE 3 : PMOS common-source, NMOS sink
* =====================================================================
XM31p VOUT vo2 VDD VDD sky130_fd_pr__pfet_01v8_lvt L=2 W=400 nf=40 m=1
XM32n VOUT IBIAS VSS VSS sky130_fd_pr__nfet_01v8     L=2 W=240 nf=24 m=1

* =====================================================================
* NESTED MILLER COMPENSATION
* Spec PM > 50 (Table 7-1) -> trimmed from 75 deg headroom for GBW.
* CCM2 (outer) sets fGBW ~ gm1/(2.pi.CCM2); CCM1 (inner) sets the
* secondary-loop UGF for stage-2+stage-3.
* =====================================================================
CCM1 VOUT nm1 10p
RZM1 nm1  vo2 1.5k
CCM2 VOUT nm2 30p
RZM2 nm2  vo1 1.2k

.ends
